US09102950B2
Racemic 1-dimethylamino-2,3-propanediol (0.96 g; Janssen Chimica) was converted to the disodium salt in situ by treatment with sodium hydride (60% in oil, 0.8 g) in tetrahydrofuran (70 mL). Condensation with myristoleyl methane sulfonate (5.3 g; NuChek Prep) afforded crude (±)-N,N-dimethyl-(2,3-bis(myristoleyloxy))propylamine (DMOP-DMA). This material was purified to homogeneity by silica gel chromatography employing a step gradient of ether in hexane (from 10% to 50%), and finally neat ether, as the eluents. DMOP-DMA (2.4 g) was then treated with N-(3-bromopropyl)phthalimide (2.5 g) in dimethylformamide (15 mL) at elevated temperature (85° C., overnight) to effect quaternization of the amine. Removal of the dimethylformamide in vacuo followed by silica gel chromatography using a step gradient of methanol/chloroform as the eluent afforded TLC homogenous material. Deprotection of the primary amine was accomplished by treatment of the phthalimide (2.1 g) with anhydrous hydrazine (1.7 mL) in anhydrous ethanol (40 mL) and propargyl alcohol (10 eq.). Filtration, evaporative removal of the solvent, basic extraction (0.1 M NaOH), alumina chromatography, and washing with 1 M NaBr afforded the pure product.

reactant | Racemic 1-dimethylamino-2,3-propanediol | 0.96 g | CN(CC(CO)O)C | C5H13NO2
reactant | disodium | [Na][Na] | 2Na
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | myristoleyl methane sulfonate | 5.3 g | CS(=O)(=O)OCCCCCCCC\C=C/CCCC | C15H30O3S
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | (±)-N,N-dimethyl-(2,3-bis(myristoleyloxy))propylamine | CN(C)CC(COCCCCCCCC\C=C/CCCC)OCCCCCCCC\C=C/CCCC | C33H65NO2
